US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-ethyl)-amide
A mixture of 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (150 mg, 0.42 mmol), 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-ethyl)-amide (88 mg, 1 eq. 0 and piperidine (18 mg, 0.5 eq.) in ethanol (2 mL) was stirred at rt for 5 days. The reaction was concentrated and triturated with ethanol to give the titled compound as a pale yellow solid.

reactant | 5-(2,6-Dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 0.42 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=C(NC(=C1C)C=O)C | C10H14N2O3
reactant | piperidine | 18 mg, 0.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C25H23Cl2N3O5S
